US07625869B2
Fmoc-Asn(Trt)Ser(But)PheAzaGlyLeuArg(Me,Boc2)Phe-Rink-Amide MBHA resin prepared in EXAMPLE 8 was subjected to Fmoc deprotection. To 64 mg (20 μmol) of H-Asn(Trt)Ser(But)PheAzaGlyLeuArg(Me,Boc2)Phe-Rink Amide MBHA resin, 1.5 mL of THF and 13 mg of CDI were added, followed by shaking for 2 hours. After 32 mg of tryptamine hydrochloride, 28 μL of DIEA and 500 μL of DMF were added to the mixture, followed by shaking for 24 hours. Thereafter the resin washed to give 2-(Indol-3-yl)ethylcarbamoyl-Asn(Trt)Ser(But)PheAzaGlyLeuArg(Me,Boc2)Phe-Rink Amied MBHA resin. To 15 mg of the product, 200 μL of TFA/PhSMe/m-cresol/TIS/EDT (85/5/5/2.5/2.5) was added, followed by stirring for 2 hours. Ether was added to the reaction solution, the resulting precipitate was centrifuged and the supernatant was removed. This procedure was repeated for washing. The residue was extracted with an aqueous acetic acid solution and the extract was filtered to remove the resin. Then, linear density gradient elution (60 minutes) was performed with eluants A/B: 69/31-59/41 using: 0.1% TFA in water and eluant B: 0.1% TFA-containing acetonitrile on preparative HPLC using YMC D-ODS-5-ST S-5 120A column (20×150 mm). The fractions containing the product were collected and lyophilized to give 1.1 mg of white powders.

reactant | THF | 1.5 mL | C1CCOC1 | C4H8O
reactant | CDI | 13 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | tryptamine hydrochloride | 32 mg | Cl.NCCC1=CNC2=CC=CC=C12
reactant | DIEA | 28 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 500 μL | CN(C)C=O | C3H7NO
product | MBHA resin | CC1=CC=C(C=C1)C(C2=CC=CC=C2)N.C=CC1=CC=CC=C1.C=CC1=CC=C(C=C1)C=C.Cl | InChI=1S/C14H15N.C10H10.C8H8.ClH/c1-11-7-9-13(10-8-11)14(15)12-5-3-2-4-6-12;1-3-9-5-7-10(4-2)8-6-9;1-2-8-6-4-3-5-7-8;/h2-10,14H,15H2,1H3;3-8H,1-2H2;2-7H,1H2;1H
